US06252061B1
Synthesis of 2-bromo-2′-deoxyadenosine
DAPD (2 g, 7.5 mmol) was suspended in 170 mL dichloroethane/DMSO (4:1) and cooled to 0° C. under an inert atmosphere. To this was added antimony tribromide (3.8 g, 10.5 mmol) and tert-butyl nitrite (1.85 mL, 1.6 g, 15.5 mmol) followed by stirring while allowing the reaction to warm to room temperature. Analysis by HPLC [Novapak C-18; 5% acetonitrile/water, 0.1M TEA, pH 7 with acetic acid] revealed a new peak that eluted at 5.59 minutes (a retention time that was expected for the brominated product) with concomitant loss of DAPD starting material. The reaction was stirred overnight and quenched with triethylamine. The conversion by HPLC was 26% indicating the synthesis of 2-bromo-2′-deoxyadenosine.

reactant | DAPD | 7.5 mmol, 2 g | C1=NC=2C(=NC(=NC2N1[C@H]3CO[C@H](O3)CO)N)N | C9H12N6O3
reactant | antimony tribromide | 10.5 mmol, 3.8 g | [Sb](Br)(Br)Br
reactant | tert-butyl nitrite | 15.5 mmol, 1.85 mL, 1.6 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | acetonitrile water | C(C)#N.O
solvent | dichloroethane DMSO | 170 mL | ClC(C)Cl.CS(=O)C
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-bromo-2′-deoxyadenosine | BrC=1N=C(C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12BrN5O3
